US04767882
(S)-3-(2-Hydroxyethyl)-1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydronaphthalene ([α]546 -8.1° (C=0.62 in ethanol)) (70.5 g; 0.287 mol) was dissolved in toluene (700 g), and pyridine (25.0 g; 0.316 mol) was added thereto. The resulting mixture was cooled to 0° C., and thionyl chloride (41.0 g; 0.345 mol) was added dropwise thereto. After the addition was completed, the resultant mixture was heated at 60° C. for 5 hours. The reaction mixture was cooled, washed with dilute hydrochloric acid, saturated sodium carbonate solution and saturated sodium chloride solution in order, dried over anhydrous sodium sulfate and concentrated to give (S)-3-(2-chloroethyl)-1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydronaphthalene (46.5 g; 0.176 mol; 61%). B.P., 106°-107° C./0.13 mmHg. [α]546 -33.4° (C=1.2 in ethanol).

reactant | (S)-3-(2-Hydroxyethyl)-1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydronaphthalene | 0.287 mol, 70.5 g | OCC[C@@H]1CC(C2=CC=C(C=C2C1(C)C)C)(C)C | C17H26O
reactant | pyridine | 0.316 mol, 25.0 g | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.345 mol, 41.0 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 700 g | C1(=CC=CC=C1)C | C7H8
product | (S)-3-(2-chloroethyl)-1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydronaphthalene | 0.176 mol, 46.5 g, 61% | ClCC[C@@H]1CC(C2=CC=C(C=C2C1(C)C)C)(C)C | C17H25Cl
